US04806538
To a solution of (αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester (1.24 g) and N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanine (1.12 g) in dry methylene chloride (30 ml) which was cooled on an ice bath, was added a solution of N,Nα-dicyclohexylcarbodiimide (0.9 g) in dry methylene chloride (5 ml). The mixture was stirred overnight at room temperature. After removal of the solvent, the crude residue was taken up with a mixture of ethyl acetate and water, filtered, and the organic layer was washed with saturated sodium bicarbonate solution, dried over magnesium sulfate, and solvent was evaporated off to give Nα -[N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanyl](αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester (2.29 g). To this compound was added trifluoroacetic acid (10 ml) and the mixture was stirred for 30 minutes on an ice bath. After evaporation of the solvent, the crude residue was dissolved in chloroform (50 ml), washed with saturated sodium bicarbonate solution, treated with active charcoal, dried over magnesium sulfate, and the solvent was evaporated off to give an oil (1.43 g). The crude material was dissolved in ethanol (10 ml) and saturated alcoholic ammonia (10 ml) was added. The resulting mixture was allowed to stand for 3 days at room temperature and concentrated in vacuo. The crude residue was chromatographed on silica gel (70 g) (chloroform and 50:1 mixture of chloroform and methanol as eluent) to give an oil (0.56 g) which was crystallized from ethanol to afford (3R,6R)-3-[(R)-1-(5-chloro-1-ethylindol-3-yl)ethyl]-6-(2-pyridylmethyl)piperazine-2,5-dione (0.34 g).

reactant | (αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester | 1.24 g | COC([C@H](N)[C@@H](C1=CN(C2=CC=C(C=C12)Cl)CC)C)=O | C15H19ClN2O2
reactant | N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanine | 1.12 g | C(C)(C)(C)OC(=O)N[C@H](CC1=NC=CC=C1)C(=O)O | C13H18N2O4
solvent | methylene chloride | 30 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 5 ml | C(Cl)Cl | CH2Cl2
product | Nα -[N-t-butoxycarbonyl-3-(2-pyridyl)-D-alanyl](αR,βR)-5-chloro-1-ethyl-β-methyltryptophan methyl ester | 2.29 g | COC([C@H](NC([C@H](NC(=O)OC(C)(C)C)CC1=NC=CC=C1)=O)[C@@H](C1=CN(C2=CC=C(C=C12)Cl)CC)C)=O | C28H35ClN4O5
